US07687495B2
c) (3R,4R,6S)-4-(4-Methoxy-phenyl)-1-(toluene-4-sulfonyl)-6-triisopropylsilanyloxymethyl-piperidin-3-ol
To a stirred solution of 19.3 g of (3R,4R,6S)-6-hydroxymethyl-4-(4-methoxy-phenyl)-1-(toluene-4-sulfonyl)-piperidin-3-ol in 400 ml of N,N-dimethylformamide is added 10.9 g of imidazole and 6.79 g of triisopropylchlorosilane at room temperature. The reaction mixture is stirred overnight, diluted with 1N hydrochloric acid and extracted with tert-butyl methyl ether. The organic phases are combined, dried over sodium sulfate and concentrated under reduced pressure. The crude product is purified by flash chromatography (SiO2 60 F) to afford the title compound as a light yellow oil. Rf=0.60 (EtOAc-heptane 1:1); Rt=6.39.

reactant | (3R,4R,6S)-6-hydroxymethyl-4-(4-methoxy-phenyl)-1-(toluene-4-sulfonyl)-piperidin-3-ol | 19.3 g | OC[C@@H]1C[C@@H]([C@H](CN1S(=O)(=O)C1=CC=C(C=C1)C)O)C1=CC=C(C=C1)OC | C20H25NO5S
reactant | imidazole | 10.9 g | N1C=NC=C1 | C3H4N2
reactant | triisopropylchlorosilane | 6.79 g | C(C)(C)[Si](Cl)(C(C)C)C(C)C | C9H21ClSi
solvent | N,N-dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
solvent | hydrochloric acid | 1N | Cl | ClH
product | (3R,4R,6S)-4-(4-Methoxy-phenyl)-1-(toluene-4-sulfonyl)-6-triisopropylsilanyloxymethyl-piperidin-3-ol | COC1=CC=C(C=C1)[C@@H]1[C@H](CN([C@@H](C1)CO[Si](C(C)C)(C(C)C)C(C)C)S(=O)(=O)C1=CC=C(C=C1)C)O | C29H45NO5SSi
